US04671890
An autoclave was then charged with the p-nitrobenzaldoxime obtained above, 5 grams of Raney nickel catalyst, and 500 ml of methanol. Reducing reaction was continued with a vigorous stirring at 25°-30° C., under hydrogen pressure of 30-50 Kg/cm2G for 3 hours. After the end of the reaction, the resultant mixture was filtered to remove the catalyst and distilled to obtain 18.9 grams of a light yellow oily fraction having a boiling point of 129.5°-130° C./5-6 mmHg. The p-Aminobenzylamine, thus obtained, is in the total yield of 44.2%.

reactant | p-nitrobenzaldoxime | [N+](=O)([O-])C1=CC=C(C=NO)C=C1 | C7H6N2O3
catalyst | Raney nickel | 5 grams | [Ni] | Ni
solvent | methanol | 500 ml | CO | CH4O
product | p-Aminobenzylamine | yield of 44.2% | NC1=CC=C(CN)C=C1 | C7H10N2
